US03951986
A mixture of 1.9 g of 1-[2-oxo-3-(p-fluorophenoxy)propyl]-4-(p-chlorophenyl)-4-hydroxypiperidine, 0.38 g of sodium borohydride and 20 ml of methanol is stirred at room temperature for 3 hours. The resulting mixture is diluted with water and extracted with chloroform. The organic layer is dried over sodium sulfate and evaporated under reduced pressure to give 1-[2-hydroxy-3-(p-fluorophenoxy)propyl]-4-(p-chlorophenyl)-4-hydroxypiperidine, M.P. 103° to 105°C. Recrystallization from benzene-cyclohexane gives white crystals, M.P. 107° to 108°C.

reactant | 1-[2-oxo-3-(p-fluorophenoxy)propyl]-4-(p-chlorophenyl)-4-hydroxypiperidine | 1.9 g | O=C(CN1CCC(CC1)(O)C1=CC=C(C=C1)Cl)COC1=CC=C(C=C1)F | C20H21ClFNO3
reactant | sodium borohydride | 0.38 g | [BH4-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 1-[2-hydroxy-3-(p-fluorophenoxy)propyl]-4-(p-chlorophenyl)-4-hydroxypiperidine | OC(CN1CCC(CC1)(O)C1=CC=C(C=C1)Cl)COC1=CC=C(C=C1)F | C20H23ClFNO3
